US05143929
To a room temperature solution of 2-[[3-(trifluoromethyl)phenyl]amino]benzaldehyde (749 mg, 2.83 mmols) and rhodanine (398 mg, 2.99 mmols) in 20 mL of acetic acid is added β-alanine (382 mg, 4.29 mmols). The solution is heated at reflux for 45 min. During this time a thick precipitate forms. The mixture is filtered hot, washing with an additional 10 mL of acetic acid, to provide 715 mg (66%) of (Z)-2-thioxo-5-[[2-[[3-(trifluoromethyl)phenyl]amino]phenyl]methylene]-4-thiazolidinone as a bright red-orange solid; mp=234°-236° C. Calc'd for C17H11F3N2OS2:

reactant | 2-[[3-(trifluoromethyl)phenyl]amino]benzaldehyde | 2.83 mmols, 749 mg | FC(C=1C=C(C=CC1)NC1=C(C=O)C=CC=C1)(F)F | C14H10F3NO
reactant | rhodanine | 2.99 mmols, 398 mg | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | β-alanine | 4.29 mmols, 382 mg | NCCC(=O)O | C3H7NO2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | (Z)-2-thioxo-5-[[2-[[3-(trifluoromethyl)phenyl]amino]phenyl]methylene]-4-thiazolidinone | 715 mg, 66% | S=C1S\C(\C(N1)=O)=C/C1=C(C=CC=C1)NC1=CC(=CC=C1)C(F)(F)F | C17H11F3N2OS2
